US05145983
N-Heptafluorobutyroylimidazole
Into a mixture of 10 parts perfluorobutyric anhydride in 40 parts of dichloromethane, there was added a slurry of 4.0 parts carbonyldiimidazole in 10.25 parts methylene chloride. The resulting mixture was refluxed for one hour. Gas generation was noted during the addition and reflux steps. The IR absorbances at 1798 and 1866 cm-1 (anhydride) and 1754 cm-1 (carbonyldiimidazole) were replaced in the product by a peak at 1754 cm-1. The yield after removal of solvent by vacuum was 12.3 parts.

reactant | perfluorobutyric anhydride | FC(C(=O)OC(C(C(C(F)(F)F)(F)F)(F)F)=O)(C(C(F)(F)F)(F)F)F | C8F14O3
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-Heptafluorobutyroylimidazole | FC(C(C(=O)N1C=NC=C1)(F)F)(C(F)(F)F)F | C7H3F7N2O
